US07704993B2
Preparation of (R)-N-methyl-8,9-dichloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine (Compound 9)
A solution of (R)-8,9-dichloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine (0.05 g, 0.20 mmol) in dichloroethane (3 mL) was treated with sodium triacetoxyborohydride (0.073 g, 0.35 mmol) and formaldehyde (0.017 mL, 37% solution in water). This was stirred at 20° C. for 2 h. The reaction was diluted with 15% NaOH and extracted with ethyl acetate (2×10 mL). The organics were dried with MgSO4, filtered and concentrated to give 0.042 g as an oil. 1H NMR (400 MHz, CDCl3) δ 7.19 (d, J=8 Hz, 1H), 6.89 (d, J=8 Hz, 1H), 3.91-3.88 (m, 1H), 3.28 (ddd, J=15, 12, 2 Hz, 1H), 2.99-2.88 (m, 2H), 2.68 (ddd, J=15, 5, 1 Hz, 1H), 2.36-2.32 (m, 4H), 2.13 (t, J=11 Hz, 1H), 1.27 (d, J=7 Hz, 3H). MS calculated for C12H15Cl2N+H: 243, observed: 243.

reactant | (R)-8,9-dichloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.20 mmol, 0.05 g | ClC=1C=CC2=C([C@H](CNCC2)C)C1Cl | C11H13Cl2N
reactant | sodium triacetoxyborohydride | 0.35 mmol, 0.073 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | formaldehyde | 0.017 mL | C=O | CH2O
solvent | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
solvent | NaOH | [OH-].[Na+]
product | (R)-N-methyl-8,9-dichloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | CN1CCC2=C([C@H](C1)C)C(=C(C=C2)Cl)Cl | C12H15Cl2N
